US04000151
In the manner given in Example 3, 7-chloro-5-phenyl-s-triazolo[4,3-a]quinoline is oxidized at low temperature with sodium periodate and ruthenium dioxide to give 5-chloro-2-(4H-1,2,4-triazol-4-yl)benzophenone.

reactant | 7-chloro-5-phenyl-s-triazolo[4,3-a]quinoline | ClC=1C=C2C(=CC=3N(C2=CC1)C=NN3)C3=CC=CC=C3 | C16H10ClN3
reactant | sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
catalyst | ruthenium dioxide | [Ru](=O)=O
product | 5-chloro-2-(4H-1,2,4-triazol-4-yl)benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C=NN=C1 | C15H10ClN3O
